US08497269B2
Step 3: N-(2,4-Difluorophenyl)-1-(2-methylpyrrolidin-1-yl)phthalazin-6-amine
A mixture of 6-bromo-1-(2-methylpyrrolidin-1-yl)phthalazine (325 mg, 1.1 mmol), 2,4-difluorobenzenamine (287 mg, 2.2 mmol), Pd2(dba)3 (10.2 mg, 0.011 mmol), X-Phos (26.5 mg, 0.056 mmol), and potassium carbonate (384 mg, 2.8 mmol) in t-butanol (2.2 mL) was heated at 110° C. in an oil bath for 18 h. The mixture was cooled to RT, diluted with MeOH and filtered through a pad of Celite. The filtrate was concentrated. The resulting brown residue was purified by column chromatography (0-70% acetone in hexanes) to provide the title compound as a brown amorphous solid. MS (ESI, pos. ion) m/z: 341.2 (M+1).

reactant | 6-bromo-1-(2-methylpyrrolidin-1-yl)phthalazine | 1.1 mmol, 325 mg | BrC=1C=C2C=NN=C(C2=CC1)N1C(CCC1)C | C13H14BrN3
reactant | 2,4-difluorobenzenamine | 2.2 mmol, 287 mg | FC1=C(C=CC(=C1)F)N | C6H5F2N
reactant | X-Phos | 0.056 mmol, 26.5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium carbonate | 2.8 mmol, 384 mg | C([O-])([O-])=O.[K+].[K+]
solvent | t-butanol | 2.2 mL | C(C)(C)(C)O | C4H10O
solvent | MeOH | CO | CH4O
catalyst | Pd2(dba)3 | 0.011 mmol, 10.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2,4-Difluorophenyl)-1-(2-methylpyrrolidin-1-yl)phthalazin-6-amine | FC1=C(C=CC(=C1)F)NC=1C=C2C=NN=C(C2=CC1)N1C(CCC1)C | C19H18F2N4
